US05929117
3-(3,4-Dimethoxyphenyl)-3-pyridin-4-ylacrylonitrile was prepared analogously to methyl 3,3-bis-(3',4'-dimethoxyphenyl)acrylate using 4-(3,4-dimethoxybenzoyl)pyridine (1 g, 4 mmol), diethylcyanomethylphosphonate (0.73 mL, 4.4 mmol) and lithium hexamethyldisilazide (3.4 mL, 4.4 mmol, 1.3M) with a reaction time of 24 hours at room temperature. The crude product was slurried in 10 mL of hexane. The mixture was filtered, the solid was washed with hexane, air dried and then dried in vacuo to afford 0.91 g (85%) of a mixture of the E and Z isomers as an off white solid: mp 116-125° C.; 1H NMR (CDCl3) δ 8.80-8.63 (m, 4H), 7.40-7.20 (m, 4H), 7.04-6.74 (m, 6H), 5.81 (s, 1H), 5.70 (s, 1H), 3.94 (s, 3H), 3.92 (s, 3H), 3.87 (s, 3H), 3.84 (s, 3H); 13C NMR (CDCl3) δ 160.1, 157.0, 151.6, 151.1, 150.3, 149.2, 148.9, 146.7, 144.9, 129.6, 127.8, 123.7, 123.1, 122.7, 122.1, 117.4, 117.1, 112.3, 111.0, 110.5, 96.1, 94.8, 56.0, 56.0; Anal. Calcd for C16H14N2O2. Theoretical: C, 72.17; H, 5.30; N, 10.52. Found: C, 72.35; H, 5.43; N, 10.47.

reactant | methyl 3,3-bis-(3',4'-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 4-(3,4-dimethoxybenzoyl)pyridine | 4 mmol, 1 g | COC=1C=C(C(=O)C2=CC=NC=C2)C=CC1OC | C14H13NO3
reactant | diethylcyanomethylphosphonate | 4.4 mmol, 0.73 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium hexamethyldisilazide | 4.4 mmol, 1.3M, 3.4 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
solvent | hexane | 10 mL | CCCCCC | C6H14
product | 3-(3,4-Dimethoxyphenyl)-3-pyridin-4-ylacrylonitrile | COC=1C=C(C=CC1OC)C(=CC#N)C1=CC=NC=C1 | C16H14N2O2
